US05132313
To a stirred solution of indene (21.9 mL, 188 mmol) in 150 mL of dry ethyl ether was added 129 mL (200 mmol) of η-BuLi dropwise at room temperature over 30 minutes with the evolution of butane. The rust colored mixture was refluxed for 2 h, and then poured in a thin stream onto 40 g of Dry Ice. The mixture was shaken at room temperature for 2 h, after which time 1 L of H2O was cautiously added. The aqueous layer was acidified with 10% HCl and then extracted with ethyl ether. Recrystallization from benzene gave 20 g (80%) of indene-3-carboxylic acid as yellowish crystals.

reactant | indene | 188 mmol, 21.9 mL | C1C=CC2=CC=CC=C12 | C9H8
reactant | butane | CCCC | C4H10
reactant | Dry Ice | 40 g | C(=O)=O | CO2
reactant | HCl | Cl | ClH
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | H2O | 1 L | O | H2O
product | indene-3-carboxylic acid | 20 g, 80% | C1C=C(C2=CC=CC=C12)C(=O)O | C10H8O2
